US07067517B2
Methyl-phenyl-carbamic acid pyridin-4-yl ester
The title product was prepared from 4-hydroxypyridine and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (11%, yellow solid). HPLC-MS: m/z=229.2 (M+1); Rt: 1.66 min, purity: 67%.

reactant | 4-hydroxypyridine | OC1=CC=NC=C1 | C5H5NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid pyridin-4-yl ester | N1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C13H12N2O2
